US05360802
Step 1: 2-Aminophenyl cyclobutyl methanone
Over a period of 1 h a solution of cyclobutyl bromide (13 g, 0.1 mol) in diethyl ether (150 ml) was added dropwise to a slurry of magnesium turnings (2.5 g, 0.11 mol) and a crystal of iodine in diethyl ether (20 ml) at reflux. The mixture was stirred for a further hour whereupon the Grignard solution was cannulated into a pressure equalising dropping funnel, attached to a three-necked round-bottomed flask, which was under an atmosphere of nitrogen. A solution of 2-aminobenzonitrile (3.78 g, 32 mmol) at 0° C. in diethyl ether (50 ml) was treated dropwise with the Grignard reagent prepared above, over a period of 15 min. Once the addition was complete, the mixture was warmed to room temperature and stirred for 16 h under nitrogen. The solution was cooled to 0° C., quenched with 5N hydrochloric acid (20 ml), and basified using solid sodium hydroxide (4 g). The aqueous solution was extracted with ethyl acetate (2×100 ml) and the combined organic layers were dried (Na2SO4) and evaporated. The residue was chromatographed on silica gel using 2:1 petrol:ethyl acetate as the eluant. This gave a yellow oil which was then azeotroped with toluene (2×80 ml) to-give the title compound (4 g, 71%) as a pale yellow solid. mp 55° C. 1H NMR (250 MHz, CDCl3) 5 1.72-2.48 (6H, m), 3.80-4.00 (1H, m), 6.23 (2H, brs), 6.50-6.61 (2H, m), 7.11-7.22 (1H, m), 7.45-7.54 (1H, m).

reactant | cyclobutyl bromide | 0.1 mol, 13 g | C1(CCC1)Br | C4H7Br
reactant | magnesium | 0.11 mol, 2.5 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 2-aminobenzonitrile | 32 mmol, 3.78 g | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-Aminophenyl cyclobutyl methanone | 4 g, 71% | NC1=C(C=CC=C1)C(=O)C1CCC1 | C11H13NO
